US04710573
1-(4-Fluorobenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole
A solution of 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 15 ml of 4-fluorobenzoyl chloride was heated at 100° for 2 hrs. The reaction mixture was poured into ether and the precipitate was collected. The precipitate was treated with dilute aqueous sodium hydroxide solution and extracted with chloroform. The chloroform extract was dried over anhydrous magnesium sulfate and the solvent removed in vacuo to yield 2.5 g (53%) of product, mp 132°-133° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | ether | CCOCC | C4H10O
reactant | 4-fluorobenzoyl chloride | 15 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 1-(4-Fluorobenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole | 2.5 g, 53% | FC1=CC=C(C(=O)N2N=C(C3=CC=CC=C23)C2CCN(CC2)C)C=C1 | C20H20FN3O
